US06313122B1
C. N-[2-(4-Methoxybenzoyloxy)phenyl]-4-tert-butylbenzamide
Using the procedure described in Example 149, Part B, N-(2-hydroxyphenyl)-4-tert-butylbenzamide (2.00 mmol) was reacted with p-anisoyl chloride to yield 494 mg (61%) of the title compound as a crystalline solid.

reactant | N-(2-hydroxyphenyl)-4-tert-butylbenzamide | 2.00 mmol | OC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C17H19NO2
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | N-[2-(4-Methoxybenzoyloxy)phenyl]-4-tert-butylbenzamide | 494 mg, 61% | COC1=CC=C(C(=O)OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C25H25NO4
